US03949084
p-Benzoylacetanilide (2.8 g.) and 100 ml. of 1N hydrochloric acid are refluxed for six hours. After cooling, the solution is made alkaline by the addition of 2N sodium hydroxide solution and extracted with ether to give 4-aminobenzophenone, which is recrystallized from methanol.

reactant | p-Benzoylacetanilide | 2.8 g | C(C1=CC=CC=C1)(=O)C1=CC=C(NC(C)=O)C=C1 | C15H13NO2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 4-aminobenzophenone | NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H11NO
